US08754100B2
Synthesis of methyl 5-chloro-2-(4-chloro-2-trifluoromethylphenyl)pentanoate
A solution of methyl (4-chloro-2-trifluoromethylphenyl)acetate (5.5 g) and 3-chloro-1-iodopropane (4.6 mL) in tetrahydrofuran (15 mL) was added dropwise to a suspension of sodium hydride (containing 60% in mineral oil, 955 mg) in tetrahydrofuran (50 mL) under ice-cooling. The reaction solution was stirred at the same temperature for 10 minutes and then at room temperature for three hours and 20 minutes. Ice water and ethyl acetate were added to the reaction solution, and the organic layer was separated. The aqueous layer was reextracted with ethyl acetate. The combined organic layers were washed with brine and dried over anhydrous magnesium sulfate, followed by concentration under reduced pressure. The resulting residue was purified by silica gel column chromatography (carrier: Wakogel™ C-200; elution solvent:heptane:ethyl acetate=19:1) to obtain 5.30 g of the title compound. The property values of the compound are as follows.

reactant | methyl (4-chloro-2-trifluoromethylphenyl)acetate | 5.5 g | ClC1=CC(=C(C=C1)CC(=O)OC)C(F)(F)F | C10H8ClF3O2
reactant | 3-chloro-1-iodopropane | 4.6 mL | ClCCCI | C3H6ClI
reactant | sodium hydride | 955 mg | [H-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | methyl 5-chloro-2-(4-chloro-2-trifluoromethylphenyl)pentanoate | 5.30 g | ClCCCC(C(=O)OC)C1=C(C=C(C=C1)Cl)C(F)(F)F | C13H13Cl2F3O2
